US09193728B2
Preparation of 2-(4-fluorophenyl)-3-(5-methyl-2-nitrophenyl)propanenitrile
To a cooled solution of (Z)-2-(4-fluorophenyl)-3-(5-methyl-2-nitrophenyl)acrylonitrile (3.0 g, 0.0106 mol) in THF (25 mL) and MeOH (75 mL) was added sodium borohydride (0.808 g, 0.0212 mol) at 0° C. under nitrogen atmosphere. The reaction mixture was stirred for 2 h at RT. After completion of reaction (monitored by TLC), the mixture was diluted with water (100 mL), and extracted with EtOAc (3×150 mL). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to obtain product as a yellow colored solid (3 g, 99% yield).

reactant | (Z)-2-(4-fluorophenyl)-3-(5-methyl-2-nitrophenyl)acrylonitrile | 0.0106 mol, 3.0 g | FC1=CC=C(C=C1)/C(/C#N)=C/C1=C(C=CC(=C1)C)[N+](=O)[O-] | C16H11FN2O2
reactant | sodium borohydride | 0.0212 mol, 0.808 g | [BH4-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | MeOH | 75 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 2-(4-fluorophenyl)-3-(5-methyl-2-nitrophenyl)propanenitrile | 3 g, 99% yield | FC1=CC=C(C=C1)C(C#N)CC1=C(C=CC(=C1)C)[N+](=O)[O-] | C16H13FN2O2
